US04349552
Diphenyl phosphoryl azide [N3.PO(OC6H5)] (9.08 g.) was added dropwise to a solution of 4-(2-thienyl)butyric acid (5.53 g.) in dry pyridine (25 ml.) and stirred for one hour at 100° C. to give a solution comprising 3-(2-thienyl)propyl isocyanate (I.R.: 2260 cm-1).

reactant | Diphenyl phosphoryl azide | 9.08 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 4-(2-thienyl)butyric acid | 5.53 g | S1C(=CC=C1)CCCC(=O)O | C8H10O2S
reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-thienyl)propyl isocyanate | S1C(=CC=C1)CCCN=C=O | C8H9NOS
